US07259266B2
8-Chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To 180 mg (0.42 mmole) of ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate was added 100 mgs of LiOH—H2O and 5 mL of a solvent mixture of THF/MeOH/H2O (7:2:1). The mixture was heated to reflux for 30 min. and allowed to cool to rt. After standing overnight, the mixture was concd in vacuo, treated with 20 mL 1N HCl and allowed to stir. The mixture was extracted three times with Et2O, the combined extracts dried and concd in vacuo to give 150 mgs (88.3%) of an off-white solid: 1H NMR (CDCl3/d6-acetone/400 MHz) 5.86 (q, 1H, J=6.7 Hz), 7.60 (s, 1H), 7.70 (s, 1H), 7.75 (s, 1H); 19F NMR (CDCl3/d6-acetone/400 MHz) −79.2 (d, 3F, J=6.8 Hz); MS(ESI+) 405 (M+1, 100, one Cl pattern); HRMS (ES-) m/z calcd for (C11H4O3IClF3) 402.8840, found 402.8850.

reactant | ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.42 mmole, 180 mg | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
reactant | LiOH—H2O | 100 mgs | O[Li].O
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | THF MeOH H2O | C1CCOC1.CO.O
product | 8-Chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 150 mgs, 88.3% | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)I | C11H5ClF3IO3
